US08729082B2
To a stirred suspension of 4-chloro-imidazo[1,2-a]quinoxaline (28.9 g, 141.8 mmol) in THF/NMP 2:1 (300 mL) was added NBS (25.2 g, 141.8 mmol) in one portion at rt. After 18 h stirring, additional 12.6 g (70.9 mmol) NBS were added and the mixture was stirred for additional 2 h at rt. After removal of the THF portion of the organic phase by vacuum evaporation, water was added (500 mL). The precipitate was filtered and the residue was washed with water and dried to give 1-bromo-4-chloro-imidazo[1,2-a]quinoxaline as an off-white solid (35 g, 78.6%): 1H-NMR (300 MHz, d6-DMSO): δ=12.42 (1H, s), 8.19 (1H, s), 7.75 (1H, d), 7.44 (2H, m) ppm. UPLC-MS: RT=1.14 min; m/z 284.6 [MH+]; required MW=283.5.

reactant | 4-chloro-imidazo[1,2-a]quinoxaline | 141.8 mmol, 28.9 g | ClC=1C=2N(C3=CC=CC=C3N1)C=CN2 | C10H6ClN3
reactant | NBS | 141.8 mmol, 25.2 g | C1CC(=O)N(C1=O)Br | C4H4BrNO2
reactant | NBS | 70.9 mmol, 12.6 g | C1CC(=O)N(C1=O)Br | C4H4BrNO2
solvent | THF NMP | 300 mL | C1CCOC1.CN1CCCC1=O
product | 1-bromo-4-chloro-imidazo[1,2-a]quinoxaline | 35 g, 78.6% | BrC1=CN=C2N1C1=CC=CC=C1N=C2Cl | C10H5BrClN3
